US07960409B2
Step 1: 3-(trifluoromethyl)hex-4-yn-3-ol
To ethyl trifluoromethyl ketone (5.00 g, 40.0 mmol) in THF (20 ml) at room temperature was added 1-propynyl magnesium bromide (0.5 M in THF, 60 mL, 30.0 mmol). The reaction mixture was allowed to stand at rt 1 h, and concentrated in vacuo. The residue was partitioned between Et2O and aq. NH4OAc, the phases were separated, and the organic phase washed with brine, dried over MgSO4, filtered and concentrated (not to complete dryness), to afford a 50 wt. % solution (estimated by 1H NMR) of the title compound (remainder THF and Et2O), which was used without further purification. 1H NMR (400 MHz, DMSO-d6): 6.63 (s, 1H), 1.87 (s, 3H), 1.75-1.63 (m, 2H), 1.04 (t, 3H).

reactant | ethyl trifluoromethyl ketone | 40.0 mmol, 5.00 g | FC(F)(F)C(=O)CC | C4H5F3O
reactant | 1-propynyl magnesium bromide | 30.0 mmol, 0.5 M, 60 mL | C(#CC)[Mg]Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(trifluoromethyl)hex-4-yn-3-ol | FC(C(CC)(C#CC)O)(F)F | C7H9F3O
